US05439925
(a) Allyl 4-(4-tert-butylbenzoyloxymethyl)benzoate
In a manner similar to Example 1(d), by reaction of 2 g (15 mmol) of 4 -tert-butylbenzoyl chloride with 2.9 g (15 mmol) of allyl 4-hydroxymethylbenzoate, 4 g (77% ) of allyl ester are obtained in the form of a colorless oil.

reactant | 4 -tert-butylbenzoyl chloride | 15 mmol, 2 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | allyl 4-hydroxymethylbenzoate | 15 mmol, 2.9 g | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
product | Allyl 4-(4-tert-butylbenzoyloxymethyl)benzoate | C(C)(C)(C)C1=CC=C(C(=O)OCC2=CC=C(C(=O)OCC=C)C=C2)C=C1 | C22H24O4
